US06127361
Sixty-percent sodium hydride (0.11 g, 2.8 mmols) was washed with petroleum ether, and then suspended in 10 ml of dimethyl sulfoxide. To the suspension were added 450 mg (2.3 mmols) of 5,11-dihydrodibenzo[b,e][1,4]oxazepine. The mixture was stirred in a nitrogen atmosphere at room temperature for 30 minutes. To this reaction solution was added dropwise a solution of 0.56 g (2.1 mmols) of (R)-(-)-3-chloro-1-(3,4-methylenedioxyphenethyl)piperidine [[α]D25 =-11.9° (c=1.0, ethanol)] in 5 ml of dimethyl sulfoxide, and the mixed solution was stirred at room temperature for 12 hours and at 40° C. for 4 hours. The reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with water and with a saturated aqueous solution of sodium chloride in this order, and dried. Subsequently, the solvent was distilled off under reduced pressure. The resulting residue was subjected to column chromatography, and eluted with a mixed solvent of ethyl acetate and hexane at a ratio of 1:5. This mixed solvent was distilled off under reduced pressure. Further, the thus-obtained residue was subjected to column chromatography, and eluted with a mixed solvent of chloroform and methanol at a ratio of 200:1. This mixed solvent was then distilled off under reduced pressure to give 0.46 g of (S)-(-)-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)-2-pyrrolidinyl-methyl]dibenzo[b,e][1,4]oxazepine as a pale yellow oil in a yield of 51%.

reactant | sodium hydride | 2.8 mmols, 0.11 g | [H-].[Na+]
reactant | 5,11-dihydrodibenzo[b,e][1,4]oxazepine | 2.3 mmols, 450 mg | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (R)-(-)-3-chloro-1-(3,4-methylenedioxyphenethyl)piperidine | 2.1 mmols, 0.56 g | Cl[C@H]1CN(CCC1)CCC1=CC2=C(C=C1)OCO2 | C14H18ClNO2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | (S)-(-)-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)-2-pyrrolidinyl-methyl]dibenzo[b,e][1,4]oxazepine | 0.46 g, yield of 51% | C1OC=2C=C(CCN3[C@@H](CCC3)CN3C4=C(OCC5=C3C=CC=C5)C=CC=C4)C=CC2O1 | C27H28N2O3
